* NGSPICE file created from dco_freq.ext - technology: sky130A





.subckt dco_freq clk clkDiv2
Xsky130_fd_sc_hd__buf_4_0 Q_N VGND VNB VPB VPWR Q_N_buf sky130_fd_sc_hd__buf_4
Xsky130_fd_sc_hd__inv_4_0 clk VGND VNB VPB VPWR clkinv sky130_fd_sc_hd__inv_4
Xsky130_fd_sc_hd__dfxtp_1_0 clkinv Q_N_buf VGND VNB VPB VPWR D sky130_fd_sc_hd__dfxtp_1
Xsky130_fd_sc_hd__dfxbp_2_0 clk D VGND VNB VPB VPWR clkDiv2 Q_N sky130_fd_sc_hd__dfxbp_2
.ends


