* NGSPICE file created from dco_main_inv.ext - technology: sky130A

.subckt dco_main_inv VPWR VCCA Y GND VGND A
X0 Y A VGND GND sky130_fd_pr__nfet_01v8 ad=0.4 pd=2.4 as=0.8 ps=4.8 w=2 l=1 M=2
X1 VPWR A Y VCCA sky130_fd_pr__pfet_01v8 ad=1.2 pd=6.8 as=0.6 ps=3.4 w=3 l=1 M=2
.ends


